* Z:\home\tejaswinianagani\EE2227_controlsystems\feedback\codes\ee18btech11047\spice\gvv.asc
R1 N001 0 1000
R2 Vout N001 4000
R3 N003 N002 250
R 0 N003 250
C1 N002 0 0.001
C2 Vout N003 0.001
XU1 N002 N001 Vcc -Vcc Vout LM741/NS
V1 Vcc 0 12
V2 0 -Vcc 12
.tran 0 25 0 0.001
.include /LM741.MOD
.backanno
.end
